US08871782B2
A mixture of N-{2-[7-(benzyloxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}-N′-isopropylurea (3.82 g, 7.80 mmol) and 10% palladium on carbon (0.92 g) in ethanol (100 mL) was hydrogenated at 50 psi (3.5×105 Pa) overnight on a Parr apparatus. The mixture was filtered through CELITE filter agent and the filtrate was concentrated under reduced pressure to yield 3.17 g of N-{2-[2-(ethoxymethyl)-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}-N′-isopropylurea as a yellow solid.

reactant | N-{2-[7-(benzyloxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}-N′-isopropylurea | 7.80 mmol, 3.82 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(C)NC(=O)NC(C)C)COCC | C28H35N5O3
catalyst | palladium on carbon | 0.92 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-{2-[2-(ethoxymethyl)-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}-N′-isopropylurea | 3.17 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC(C)(C)NC(=O)NC(C)C | C21H29N5O3
